US05578636
Synthesis of 5-(3-hydroxy-4-pyranyloxy)-1-butynyl-2,2'-bithiophene
4-(Tetrahydropyranyloxy)-3-hydroxy-butyne (6.7 g) was dissolved in benzene (20 ml). 5-Iodo-2.2'-bithiophene (5.75 g) was added immediately and stirred. A mixture of CuI (0.15 g) and benzyltriethylammonium chloride (0.14 g, 0.63 mmole) was added. Pd(PPh3)4 (0.46 g, 0.398 mmole) was then added. NaOH solution (30 ml, 2.5N) was added slowly into the mixture at room temperature in water bath for 2 hours. NH4Cl solution (10 ml) was added. The reaction solution was extracted with ethyl acetate. The extract was washed with 10 ml of HCl (10%) for 3 times, 50 ml of water for 3 times and dried over anhydrous magnesium sulfate. The residual solid after evaporation was purified by silica gel column chromatography, eluted with ethyl acetate/n-hexane (1/3). Reddish oily product (6.25 g, 95%) was then obtained.

reactant | 4-(Tetrahydropyranyloxy)-3-hydroxy-butyne | 6.7 g | O1C(CCCC1)OCC(C#C)O | C9H14O3
reactant | 5-Iodo-2.2'-bithiophene | 5.75 g | IC1=CC=C(S1)C=1SC=CC1 | C8H5IS2
reactant | NaOH | 2.5N, 30 ml | [OH-].[Na+]
reactant | NH4Cl | 10 ml | [NH4+].[Cl-]
reactant | water | O | H2O
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
catalyst | benzyltriethylammonium chloride | 0.63 mmole, 0.14 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
catalyst | CuI | 0.15 g | [Cu]I
catalyst | Pd(PPh3)4 | 0.398 mmole, 0.46 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(3-hydroxy-4-pyranyloxy)-1-butynyl-2,2'-bithiophene | 6.25 g, 95% | OC=1COC=CC1OC1=CC=C(S1C#CCC)C=1SC=CC1 | C17H16O3S2
